Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old female with a history of hypertension and 
mild dementia who was brought in by EMS after she caused a fire 
in her apartment. The patient reports that she was trying to 
boil her rags and is unclear how the fire started but thinks 
maybe all the water boiled out of the pot she was using. This 
has never happened to her before but speaking to her son she has 
had brief periods of forgetfulness and confusion over the past 
few years and he has been trying to increase the number of 
services she has in her apartment for support. Per EMS report 
she told firefighters that she heard voices telling her to start 
the fire. She denies any visual or auditory hallucinations on my 
history. She denies any fevers but endorses sometimes feeling 
cold. She has had some mild chest congestion and a 
non-productive cough. No chest pain or difficulty breathing. No 
abdominal pain, nausea or diarrhea. She does endorse mild 
constipation. No dysuria or hematuria. No leg pain or swelling. 
No easy bruising or bleeding. She does endorse a 30 lb weight 
loss over the past year which is involuntary. She thinks that 
her primary care physician is evaluating her for this. She does 
not know if she has ever had a colonoscopy or recent mammogram. 
Per her son she receives her medical care at ___ 
___ but a medical records request to that facility returned 
no records.  

In the ED, initial vs were: T: 98.6 P: 66 BP: 153/73 R: 20 O2 
sat 98% on RA. She was alert and oriented to person, hospital, 
and fall. She did not know the date. She denies auditory or 
visual hallucinations. Per her son she was still mildly confused 
in the emergency room but over the course of the afternoon 
returned to her baseline. She had a non-contrast head CT which 
was negative for hemorrhage. A CXR which showed no infiltrates. 
EKG showed normal sinus rhythm, normal axis, left ventricular 
hypertrophy, TWI and ST depressions in II, V4-V6 with no priors 
for comparison. She received no medications and is admitted to 
the floor for further workup of confusion.  
 
On the floor she has no complaints. She does not know how the 
fire started but again thinks that the water in her pot must 
have boiled away.  

Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. + 30 lb recent weight 
loss. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias. 
 
Past Medical History:
Hypertension  
Mild Dementia  
GERD  
Arthritis  
Osteoporosis
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Vitals: T: 96.8 BP: 147/75 P: 56 R: 16 O2: 97% on RA  
General: Alert, oriented to person, hospital, ___, ___ but 
not date, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, wears upper and 
lower dentures which are currently removed  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neurologic: CN II-XII tested and intact, strength ___ 
throughout, sensation intact to light touch across all 
dermatomes, finger to nose slow but intact, gait not tested 
 
Pertinent Results:
CT HEAD W/O CONTRAST ___ 8:51 ___:
Preliminary findings: No acute intracranial process.

LEFT AP PELVIS AND TWO VIEWS OF THE HIP ___ 8:24 ___:
No fracture or dislocation is detected involving left hip. The 
pelvic girdle is congruent. There are mild-to- moderate left and 
moderate right hip degenerative changes. The sacrum is obscured 
by overlying bowel gas. Surgical clips are noted in the pelvis. 
Tiny rounded density overlying the sacrum may represent residua 
from remote myelographic contrast. There is diffuse osteopenia.  
 
Of note, there is an ill-defined but somewhat focal 16-mm area 
of osteopenia in the proximal femoral diaphysis approximately 
6.8 cm below the inferior edge of the lesser tuberosity, where 
there is slight endosteal thinning, seen only on the AP view. If 
there is hip pain unrelated to trauma and history of malignancy, 
then further evaluation with MRI to exclude an underlying lesion 
would be recommended. 

TIB/FIB (AP & LAT) LEFT ___ 8:24 ___:
There is diffuse osteopenia, relatively severe. No fracture or 
dislocation is detected. If the patient has pain localized to 
the knee, then dedicated radiographs of the knee would be 
recommended. Irregular areas of increased density in the distal 
femur and distal tibia most likely represent bone infarcts.

CHEST (PA & LAT) ___ 6:29 ___:
IMPRESSION: Mild left basilar atelectasis. Otherwise, no acute 
cardiopulmonary abnormality.

CT HEAD W/O CONTRAST ___ 6:17 ___:
IMPRESSION: No acute intracranial hemorrhage. No midline shift.

ADMISSION LABS:
___ 05:15PM BLOOD WBC-3.7* RBC-4.73 Hgb-12.0 Hct-37.1 
MCV-78* MCH-25.3* MCHC-32.4 RDW-15.3 Plt Ct-88*
___ 05:58PM BLOOD ___ PTT-26.2 ___
___ 05:15PM BLOOD Glucose-93 UreaN-36* Creat-1.2* Na-140 
K-4.7 Cl-104 HCO3-29 AnGap-12
___ 05:15PM BLOOD ALT-25 AST-30 AlkPhos-84 TotBili-0.5
___ 05:15PM BLOOD Calcium-9.5 Phos-4.1 Mg-2.1

DISCHARGE LABS:
___ 07:10AM BLOOD WBC-3.4* RBC-4.79 Hgb-11.5* Hct-37.5 
MCV-78* MCH-24.1* MCHC-30.8* RDW-15.3 Plt Ct-96*
___ 07:10AM BLOOD Glucose-84 UreaN-24* Creat-0.9 Na-143 
K-4.9 Cl-106 HCO3-33* AnGap-9
___ 07:10AM BLOOD Calcium-9.3 Phos-2.8 Mg-1.9

CARDIAC ENZYMES:
___ 05:15PM BLOOD CK-MB-5 cTropnT-<0.01 proBNP-3334*
___ 08:35AM BLOOD CK-MB-NotDone cTropnT-<0.01

ENDOCRINE:
___ 05:15PM BLOOD VitB12-1109* Folate-17.9
___ 05:15PM BLOOD TSH-1.1

TOXICOLOGY:
___ 05:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:09PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

MICRO:
___ 05:15PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ SEROLOGY/BLOOD RAPID PLASMA REAGIN TEST-FINAL 
(NEGATIVE)
 
Brief Hospital Course:
Confusion/hallucinations: 
Patient presented following episode of confusion at home in 
which she set her kitchen on fire. Her family feels that 
although she is sometimes confused, they were unaware that she 
was capable of setting the kitchen on fire. No evidence of 
intracranial process on admission head CT. Reversible causes of 
mental status changes such as urinary tract infection, 
hypothyroidism, syphilis, B12 deficiency, and folate deficiency 
were all ruled-out with appropriate testing. SW spoke with the 
family and reinforced the need for closer supervision of the 
patient vs. placement in nursing facility. Family was insistent 
on the patient returning home and assured that they would 
implement safety measures at home, such as disconnecting the 
stove. ___ was set up to have a home safety evaluation and 
occupational therapy to assess for further care needs at home. 
Additionally, patient was scheduled for memory clinic assessment 
to further define and assess degree of severity of her apparent 
dementia.

Thrombocytopenia: 
Unclear if this is new or is baseline for the patient, however 
has been stable during this admission. There was no concern for 
acute bleeding. Differential diagnosis includes disorders of 
decreased platelet production from viral infections, vitamin 
deficiencies, myelodysplastic syndrome. Patient has follow-up 
with her primary care physician later this week, during which 
this issue should be further addressed.

Weight Loss:
Patient reports a 30 lb weight loss with no clear localizing 
symptoms although she is a difficult historian. CXR per report 
shows apical scarring which raises suspicion for prior 
tuberculosis infection, however pt is asymptomatic, therefore 
will hold off on PPD for now. TSH WNL. She does have leukopenia 
and thrombocytopenia and some atypical lymphs on blood smear 
which raises question for hematologic malignancy, which should 
be addressed as outpatient. Unlikely to have HIV risk factors. 
She does not have evidence of advance cardiac or pulmonary 
disease. 
  
Hypertension: 
Patient remained stable with no concerning drops or rises in 
blood pressure while in the hospital. We continued her on 
lisinopril 40 mg daily, hydrochlororthiazide 12.5 mg daily, and 
dosed her metroprolol as metoprolol tartrate 100 mg BID.
 
Fall in hospital: 
Patient had unwitnessed mechanical fall while attempting to get 
up from chair. Head CT, hip films, and left leg film were 
negative after the fall. Patient was provided with a walker 
prior to discharge, per ___ recommendations.
 
Medications on Admission:
Lisinopril 40 mg daily  
Prilosec 20 mg daily  
Fosamax 70 mg weekly
Hydrochlorothiazide 12.5 mg daily  
Fluticasone cream TID  
Cyanocobalamin injections  
Metoprolol 200 mg daily (? succinate versus tartrate)  
Aspirin 81 mg daily
 
Discharge Medications:
1. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  
4. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
5. Metoprolol Succinate 200 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
6. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Dementia

Secondary:
Hypertension  
Delerium

 
Discharge Condition:
Patient medically stable, some intermittent confusion

 
Discharge Instructions:
You were admitted to the hospital with concerns that you were 
confused after a small fire was started in your home. We feel 
that you are medically stable to go home; however, we would like 
for you to have some additional help at home with cooking and 
daily care activities.

We are asking that a ___ (Visiting Nurse ___ come to 
your house to assess your safety and offer you some services to 
help you live safely at home. We are providing you with a walker 
to help you safely move around your home.

MEDICATIONS:
Please continue all medications as you were previously taking 
them. We have made no changes.

Please keep your previously scheduled appointment with Dr. ___ 
___ Dr. ___ on ___. Also, we have 
scheduled you for memory testing on ___ ___ 
(___).

Should you have any fever, chills, chest pain, loss of 
consciousness, severe confusion, or any other symptoms that are 
concerning to you, please call your primary care physician or 
report to an emergency department.
 
Followup Instructions:
___